US05885997
4-[[3-Methyl-4-oxo-3,4-dihydro-2-quinazolinyl]methoxy]benzaldehyde
A mixture of 4-hydroxybenzaldehyde (3.21 g, 26.3 mmol) and K2CO3 (3.64 g, 26.3 mmol) in dry DMF (50 ml) was stirred for 15 min at 30° C. To the above stirred mixture a solution of 2-chloromethyl-3-methyl4-oxo-3,4-dihydroquinazoline (5.0 g, 24.0 mmol) was added and stirred further for 90 minutes at the same temperature. The reaction mixture was diluted with EtOAc (200 ml), washed with aqueous Na2CO3 solution (3×50 ml) and then with brine, dried over anhydrous Na2SO4 and concentrated to yield the title compound (5.08 g, 72%).

reactant | 4-hydroxybenzaldehyde | 26.3 mmol, 3.21 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | K2CO3 | 26.3 mmol, 3.64 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-chloromethyl-3-methyl4-oxo-3,4-dihydroquinazoline | 24.0 mmol, 5.0 g | ClCC1=NC2=CC=CC=C2C(N1C)=O | C10H9ClN2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | 4-[[3-Methyl-4-oxo-3,4-dihydro-2-quinazolinyl]methoxy]benzaldehyde | 5.08 g, 72% | CN1C(=NC2=CC=CC=C2C1=O)COC1=CC=C(C=O)C=C1 | C17H14N2O3
